US07037925B2
3-(2-Nitrophenyl)propanoic acid
Sodium hydride (60% in paraffin oil, 1.0 g, 25 mmol) was added to a solution of diethyl malonate (3.2 g, 20 mmol) in DMF (20 ml) and the mixture was stirred for 3 min. 1-Bromomethyl-2-nitrobenzene (4.3 g, 20 mmol) was then added in portions during 5 min. The reaction mixture was stirred for 3 h, diluted with water, and extracted twice with ethyl acetate. The combined organic phases was washed with water and evaporated. The residue was suspended in acetic acid (40 ml) and 7.5 M HCl (10 ml) was added. The mixture was refluxed for 19 h, cooled and partitioned between diethyl ether and saturated aqueous NaHCO3. The organic phase was washed with saturated aqueous NaHCO3 and then acidified with 2M HCl. The precipitate was collected by filtration and dried to give the title compound (2.22 g, 77%).

reactant | Sodium hydride | 25 mmol, 1.0 g | [H-].[Na+]
reactant | diethyl malonate | 20 mmol, 3.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-Bromomethyl-2-nitrobenzene | 20 mmol, 4.3 g | BrCC1=C(C=CC=C1)[N+](=O)[O-] | C7H6BrNO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(2-Nitrophenyl)propanoic acid | 2.22 g, 77% | [N+](=O)([O-])C1=C(C=CC=C1)CCC(=O)O | C9H9NO4
